US08048897B2
(4) Synthesis of 2-(4-Methoxybenzyl)-3-methylphenol
To a solution of (2-benzyloxy-6-methylphenyl)-(4-methoxyphenyl)-methanol (2.39 g, 7.15 mmol) in methanol (50 mL), a 20% palladium hydroxide catalyst (0.36 g) was added and furthermore 36% HCl (0.36 mL) was added thereto. The mixture was stirred under a hydrogen atmosphere for 11 hours, and then the catalyst was filtered off. The solvent was distilled under reduced pressure and the obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:5)] to obtain the title compound (1.40 g, 86%).

reactant | (2-benzyloxy-6-methylphenyl)-(4-methoxyphenyl)-methanol | 7.15 mmol, 2.39 g | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)C)C(O)C1=CC=C(C=C1)OC | C22H22O3
reactant | HCl | 0.36 mL | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium hydroxide | 0.36 g | [OH-].[Pd+2].[OH-]
product | 2-(4-Methoxybenzyl)-3-methylphenol | 1.40 g, 86% | COC1=CC=C(CC2=C(C=CC=C2C)O)C=C1 | C15H16O2
